US08809369B2
To a stirred solution of isopropylamine (6.8 mL, 79.6 mmol) and triethylamine (16.6 mL, 119.4 mmol) in dichloromethane (300 mL) was added the solution of 4-nitro-benzenesulfonyl chloride (8.8 g, 39.8 mmol) in dichloromethane (50 mL) at 0° C. The mixture solution stirred at room temperature for 4 h. The mixture solution was stirred at room temperature for 4 h and then washed with brine (50 mL×2) and dried over anhydrous sodium sulfate. The solvent was removed in vacuo to afford N-isopropyl-4-nitro-benzenesulfonamide (9.3 g, 96%) as a white powder: MS (ESI) M+1=245.

reactant | isopropylamine | 79.6 mmol, 6.8 mL | C(C)(C)N | C3H9N
reactant | triethylamine | 119.4 mmol, 16.6 mL | C(C)N(CC)CC | C6H15N
reactant | 4-nitro-benzenesulfonyl chloride | 39.8 mmol, 8.8 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | N-isopropyl-4-nitro-benzenesulfonamide | 9.3 g, 96% | C(C)(C)NS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C9H12N2O4S
